Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
asymptomatic RUL lesion
 
Major Surgical or Invasive Procedure:
___
1. Video-assisted thoracoscopic surgery (VATS) right upper
    lobectomy.
2. Video-assisted thoracoscopic surgery (VATS) right lower
    lobe superior segmentectomy.
3. Mediastinal lymph node dissection.
4. Bronchoscopy with lavage.

___
Right pleural pigtail placement

___
Bronchoscopy

 
History of Present Illness:
Ms ___ is a ___ former heavy
smoker had an incidental finding of a RUL lung nodule on CT w/u
for abnormalities noted on a liver US. A chest CT ___ noted 
a
2.5 cm spiculated mass right lung at the major fissure, as well
as amaller vague lesions RLL 4-6mm. She underwent a PET CT
___ which noted the nodule to be 2.2 cm with  FDG avidity
(SUV 5.2), a 3mm right apical nodule, a 3mm and 2 mm LUL nodules
all non-avid. There is also focal FDG uptake in the sigmoid
colon. She denies any cough, hemoptysis, SOB, DOE, chest pain, 
wt
loss, HA, dizziness, sweats or bony pain.

 
Past Medical History:
________________________________________________________________
PAST MEDICAL HISTORY:
Liver lesions thought to be hemangiomas.
HTN
HL
Depression
2 pulmonary nodules x 2 (5mm) ___, f/u 6mos
___ R renal cyst 
Hiatal hernia

 
Social History:
___
Family History:
non contributory

 
Physical Exam:
BP: 142/81. Heart Rate: 65. Weight: 107.7. Height: 62. BMI: 
19.7.
Temperature: 98.1. Resp. Rate: 16. Pain Score: 0. O2 
Saturation%:
99. Distress Score: 0.
      
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
As compared to prior study, there is interval increase in the 
right pleural fluid and also increase in the subcutaneous air.  
The extent of the intrathoracic air is difficult to assess.  
Also, atelectasis of the right lower lobe is suspected given the 
interval development of the right 
mediastinal shift concerning for right lower lung atelectasis. 
  
___ Chest CT :
1.  Large hydro-hemo-pneumothorax with a chest drain in situ 
which could be repositioned more medially. 
2.  Minimal aeration of the residual right lower lobe lung with 
apparent 
occlusion of the lower lobe bronchus as described.  No definite 
cause for this is identified; however, mucus plugging is 
considered likely.  The adjacent vasculature is normal in 
appearance, rendering torsion unlikely. 
3.  Moderate intrahepatic and extrahepatic biliary duct 
dilatation, no cause seen on this study. 
4.  Hepatic hemangioma. 

___ CXR :
The PA and lateral radiographs on the current study demonstrate 
interval 
improvement of the right lower lung aeration with more central 
than before position of the mediastinum.  Currently, the upper 
margin of the right lower lung is better seen and is located 
approximately 5.5 cm below the apex of the hemithorax.  
Subcutaneous air appears to be unchanged.  Left lung is 
essentially clear. 
SPECIMEN SUBMITTED: right upper lobe and superior segment RLL, 
Lymph Node Level 9, Lymph Node Level 7, 10R lymph node, 12R 
lymph node, LYMPHNODE LEVEL 4R, LYMPHNODE LEVEL 2, ___ 
BRONCHIAL SOFT TISSUE FINAL MARGIN.

___ CXR :
Successful pigtail drainage catheter removal without evidence of 

increasing pneumothorax and unaltered chest wall emphysema.  
Further followup is recommended. 

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 

DIAGNOSIS: 

1.  Lung, right upper lobe and superior segment of right lower 
lobes, lobectomy and superior segmentectomy (A-S): 

Lung adenocarcinoma (2.4 cm), acinar pattern predominant, see 
synoptic report.

 

One peribronchial lymph node, negative for tumor (___).

 

2.  Lymph node, level 9 (T): 

Lymph node(s), negative  for tumor.

 

3.  Lymph node, level 7 (U-V):

Fragments of lymph nodes, negative for tumor. 

 

4.  Lymph node, 10R (W): 

Fragments of lymph nodes, negative for tumor. 

 

 5.  Lymph node, 12R (X-Y): 

Fragments of lymph nodes, negative for tumor. 

 

6.  Lymph node, level 4R (Z-AA)

Fragments of lymph nodes, negative for tumor. 

 

7.  Lymph node, level 2 (AB-AC): 

Fragments of lymph nodes, negative for tumor. 

 

8.  Bronchial soft tissue, final margin (AD): 

Vascular tissue and peripheral nerve with extensive cautery 
effect, negative for tumor (multiple levels examined).

 

 

 

 
Brief Hospital Course:
Mrs. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a video-assisted 
thoracoscopic surgery (VATS) right upper
lobectomy, video-assisted thoracoscopic surgery (VATS) right 
lower lobe superior segmentectomy, mediastinal lymph node 
dissection and bronchoscopy with lavage. She tolerated the 
procedure well and returned to the PACU in stable condition.  
She maintained stable hemodynamics and her pain was controlled 
with IV Dilaudid. She had no air leak from her chest tube and 
minimal drainage.

Following transfer to the Surgical floor she had some oxygen 
desaturations along with dyspnea and more crepitus over her 
right chest.  Her chest xray showed a slightly larger right 
apical space and her tube was placed on suction with resolution 
of her symptoms. Her pain was controlled with Oxycodone and she 
was able to use her incentive spirometer effectively.  Following 
removal of her chest tube she has a stable right apical space 
but eventually developed a large air fluid level and a pigtail 
catheter was placed on ___.  Subsequently a chest CT was 
done which demonstrated RLL atelectesis with obstruction of the 
RLL bronchus.  After vigorous pulmonary toilet including chest 
___ and increased incentive spirometry, her CXR improved.  On 
___ she underwent a bronchoscopy to assure airway patency 
and had a large mucous plug removed.  The BAL grew Pseudomonas 
and she was placed on a 7 day course of Levaquin as she also had 
some GPC in the initial gram stain.  Her WBC was 13K  but she ws 
afebrile. Her pigtail catheter was removed on ___ after a 
successful clamp trial.  Her surgical sites were healing well.

Following removal of her foley catheter she had some urinary 
retention and was straight cathed for 800 cc's but had no 
trouble thereafter.  Her appetite was modest and she was 
encouraged to take additional protein supplements.

She will need to follow up in the Thoracic Clinic in ___ weeks 
and will also follow up with the Medical Oncologist at the same 
time.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 20 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Simvastatin 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Calcium 500 + D (D3) *NF* (calcium carbonate-vitamin D3) 
500-125 mg-unit Oral BID 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Simvastatin 40 mg PO DAILY 
4. Acetaminophen 650 mg PO Q6H 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Milk of Magnesia 30 mL PO HS:PRN constipation 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
8. Calcium 500 + D (D3) *NF* (calcium carbonate-vitamin D3) 
500-125 mg-unit Oral BID 
9. Enalapril Maleate 20 mg PO DAILY 
10. Fish Oil (Omega 3) 1000 mg PO BID 
11. Multivitamins 1 TAB PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. shower chair
14. Levofloxacin 750 mg PO DAILY 
thru ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Moderately differentiated pT2apN0MX adenocarcinoma right upper 
lobe.
Right lower lobe collapse
Pneumonia
Urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and 
required a longer stay as your lung collapsed, requiring 
replacement of a chest tube along with brochoscopy. You are now 
ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* Continue your antibiotic until the prescription is completed.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 
 
 
 
Followup Instructions:
___